US04281009
55.3 Grams of 3-chloro-4,4'-dimethoxybenzophenone, 65.1 g of potassium cyanide, 96 g of ammonium carbonate and 94.8 g of ammonium hydrogencarbonate were charged in an autoclave together with 500 ml. of formamide and 100 ml. of water and the whole was heated at 120° C. with stirring for 48 hours. The reaction liquid was made acidic with concentrated hydrochloric acid, mixed with water and allowed to stand in a cool place overnight. The precipitates thus formed were washed with water and filtered out. The filtration residue was dissolved in 80% ethanol-water under heating, decolorized with active carbon and recrystallized from ethanol-chloroform to obtain 40.0 g of 5-(3-chloro-4-methoxyphenyl)-5-(4-methoxyphenyl)hydantoin in the form of white crystals.

reactant | 3-chloro-4,4'-dimethoxybenzophenone | ClC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=CC1OC | C15H13ClO3
reactant | potassium cyanide | 65.1 g | [C-]#N.[K+]
reactant | ammonium carbonate | 96 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ammonium hydrogencarbonate | 94.8 g | C(O)([O-])=O.[NH4+]
reactant | formamide | C(=O)N | CH3NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-(3-chloro-4-methoxyphenyl)-5-(4-methoxyphenyl)hydantoin | 40.0 g | ClC=1C=C(C=CC1OC)C1(C(NC(N1)=O)=O)C1=CC=C(C=C1)OC | C17H15ClN2O4
